US04963561
It is contemplated that 6-(4-aminophenyl)-1,3-dihydro-5-methyl-2H-imidazo[4,5-b]pyridin-2-one can be alkylated by reacting it with formic acid followed by reduction of the intermediate formylamino derivative to obtain 6-[4-(methylamino)phenyl]-1,3-dihydro-5-methyl-2H-imidazo[4,5-b]pyridin-2-one [I; Ar =4-CH3NHC6H4, R1 and R3H, R5 =CH3 ]; or by reacting it with formaldehyde under reducing conditions to obtain 6-[4-(dimethylamino)pheny]-1,3-dihydro-5-methyl-2H-imidazo[4,5-b]pyridin-2-one [I; Ar =4-(CH3)2NC6H4, R1 and R3 =H, R5 =CH3 ].

reactant | 6-(4-aminophenyl)-1,3-dihydro-5-methyl-2H-imidazo[4,5-b]pyridin-2-one | NC1=CC=C(C=C1)C=1C=C2C(=NC1C)NC(N2)=O | C13H12N4O
reactant | formic acid | C(=O)O | CH2O2
product | 6-[4-(methylamino)phenyl]-1,3-dihydro-5-methyl-2H-imidazo[4,5-b]pyridin-2-one | CNC1=CC=C(C=C1)C=1C=C2C(=NC1C)NC(N2)=O | C14H14N4O
